US06375965B1
The fungicidal preparations containing the inorganic copper fungicide and chemicals (such as fungicides, etc.) other than ingredients (a) and (b) include a Bordeaux mixture containing basic copper calcium sulfate; copper-sulfur fungicides, such as Engei Bordeaux (trade name, produced by Sankei Chemical Co., Ltd.), etc.; copper-validamycin fungicides; copper-validamycin-fthalide fungicides; copper-pyrifenox fungicides; copper (I)-vinclozolin fungicides; copper-fthalide fungicides; copper-procymidone fungicides, such as Scletane Wettable Powder (trade name, produced by Hokko Chemical Industry Co., Ltd.); copper (I)-fosetyl wettable powders; copper-metalaxyl fungicides, such as Ridomil Copper Wettable Powder (trade name, produced by Nihon Nohyaku Co., Ltd.); iprodione copper (I) fungicides, such as Daisedo Wettable Powder (trade name, produced by Yashima Chemical Industry Co., Ltd.); iminoctadine triacetate-copper fungicides; oxadixyl copper (I) fungicides; oxolinic acid-copper fungicides; Ad kasugamycin-copper fungicides, such as Kasumin Bordeaux Dust 3DL (trade name, produced by Hokko Chemical Industry Co., Ltd.), Kasumin Bordeaux (trade name, produced by Dai-ichi Noyaku K.K. and Hokko Chemical Industry Co., Ltd.), etc.; Dithianon copper (I) fungicides; streptomycin-copper fungicides, such as Do-Stomy Wettable Powder (trade name, produced by Nihon Nohyaku Co., Ltd.), etc.; sodium hydrogencarbonate-copper fungicides, such as G-Fine Wettable Powder (trade name, produced by Yashima Chemical Industry Co., Ltd.); and copper-organocopper fungicides, such as Oxy Bordeaux (trade name, produced by Sankyo Co., Ltd.), Kinset Wettable Powder (trade name, produced by Agro-Kanesho Co., Ltd.), Kinset Wettable Powder 80 (trade name, produced by Agro-Kanesho Co., Ltd.), etc.

reactant | copper validamycin | [Cu].C1[C@@H]([C@H]([C@@H]([C@H]([C@H]1N[C@H]2C=C([C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)CO
reactant | copper validamycin fthalide | [Cu].C1[C@@H]([C@H]([C@@H]([C@H]([C@H]1N[C@H]2C=C([C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)CO.C1C2=C(C(=C(C(=C2Cl)Cl)Cl)Cl)C(=O)O1
reactant | copper pyrifenox | [Cu].CO/N=C(\CC1=CN=CC=C1)/C2=C(C=C(C=C2)Cl)Cl
reactant | copper (I) vinclozolin | [Cu+].CC1(C(=O)N(C(=O)O1)C=2C=C(C=C(C2)Cl)Cl)C=C
reactant | copper fthalide | [Cu].C1C2=C(C(=C(C(=C2Cl)Cl)Cl)Cl)C(=O)O1
product | copper procymidone | [Cu].CC12CC1(C(=O)N(C2=O)C=3C=C(C=C(C3)Cl)Cl)C | InChI=1S/C13H11Cl2NO2.Cu/c1-12-6-13(12,2)11(18)16(10(12)17)9-4-7(14)3-8(15)5-9;/h3-5H,6H2,1-2H3;
